US04283539
1-(4-Chlorophenoxy)-3-methyl-4-isoquinoline Acetic Acid
A mixture of 1-chloro-3-methyl-4-isoquinoline acetic acid (237 mg., 1.01 mmol) prepared as in Example 8, 4-chlorophenol (260 mg., 2.02 mmol), and potassium tert-butoxide (226 mg., 2.02 mmol) were heated at 100° for 3 hr. After cooling the mixture was diluted with ethyl acetate and water and acidified to pH 1-2. The separated aqueous phase was extracted with 20 ml. ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, and vacuum evaporated to a brown oil. Chromatography of this on silica gel eluted with ethyl acetate gave a pale yellow solid; 80 mg., 24%, mp 192°-195° d.

reactant | 1-chloro-3-methyl-4-isoquinoline acetic acid | 1.01 mmol, 237 mg | ClC1=NC(=C(C2=CC=CC=C12)CC(=O)O)C | C12H10ClNO2
reactant | 4-chlorophenol | 2.02 mmol, 260 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | potassium tert-butoxide | 2.02 mmol, 226 mg | CC(C)([O-])C.[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(4-Chlorophenoxy)-3-methyl-4-isoquinoline Acetic Acid | ClC1=CC=C(OC2=NC(=C(C3=CC=CC=C23)CC(=O)O)C)C=C1 | C18H14ClNO3
